US08067408B2
N-[(3-Bromo-5-chlorophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide
3-[({[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]benzoic acid (677 mg, 1.5 mmol) was suspended in dichloromethane (DCM) (50 ml), and HBTU (569 mg, 1.5 mmol) was added, followed sequentially by 3-bromo-5-chlorobenzylamine (331 mg, 1.5 mmol), and TEA (0.418 mL, 3.0 mmol). The reaction mixture was stirred overnight under argon at room temperature to give a clear-colorless solution. The solvent was removed on a rotovap and the residue was partitioned between ethyl acetate (100 mL) and 1N NaOH (20 mL). The phases were separated and the organic phase was washed 2× with 1N NaOH (20 mL), and then 1× with brine (20 mL). The organic layer was dried over anhydrous Na2SO4, filtered and concentrated to give the crude product. The crude product was taken up in dichloromethane and absorbed on Isolute® Sorbent and purified by CombiFlash on a 40 g silica column eluted with 0-10% DCM/MeOH to give the title compound as white solid. LC-MS m/z 652.9 (M+H)+, 2.08 min (ret time); mp 109-112° C.; analytical HPLC shows 97.6% purity, (ret time 13.921 min).

reactant | 3-[({[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]benzoic acid | 1.5 mmol, 677 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C=2C=C(C(=O)O)C=CC2)CC | C24H29N5O4
reactant | HBTU | 1.5 mmol, 569 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-bromo-5-chlorobenzylamine | 1.5 mmol, 331 mg | BrC=1C=C(CN)C=C(C1)Cl | C7H7BrClN
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-[(3-Bromo-5-chlorophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide | BrC=1C=C(C=C(C1)Cl)CNC(=O)C1=CC(=CC=C1)C(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C31H34BrClN6O3
